US07141559B2
Methyl(3β,5α,7α,12α)-7,12-dihydroxy-3-(methanesulfonyloxy)cholan-24-oate
To a solution of cholic acid methyl ester (25 g, 59.2 mmol) in pyridine (75 mL), stirring at 0° C., was added methanesulfonyl chloride (5.04 mL, 65.1 mmol) dropwise over 30 minutes. The reaction was allowed to warm to room temperature and stir for 6 hours. The reaction mixture was poured into a mixture of EtOAc (200 mL), 1 N HCl (200 mL), and ice. The layers were separated, and the organic layer was washed with 1N HCl (2×50 mL), dried (Na2SO4) and concentrated to provide a light yellow oil. The crude material was passed through a plug of silica eluting with 50% EtOAc/hexanes to provide 24.5 g (83%) of the title compound as a light yellow oil that foamed into a white, sticky foam when placed on the high vacuum pump.

reactant | cholic acid methyl ester | 59.2 mmol, 25 g | CC(CCC(=O)OC)C1CCC2C1(C(CC3C2C(CC4C3(CCC(C4)O)C)O)O)C | C25H42O5
reactant | methanesulfonyl chloride | 65.1 mmol, 5.04 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
reactant | HCl | 1 N, 200 mL | Cl | ClH
solvent | pyridine | 75 mL | N1=CC=CC=C1 | C5H5N
product | Methyl(3β,5α,7α,12α)-7,12-dihydroxy-3-(methanesulfonyloxy)cholan-24-oate | 24.5 g, 83% | COC(CC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3[C@@H](C[C@H]4C[C@H](CC[C@]4(C)[C@H]3C[C@@H]([C@]12C)O)OS(=O)(=O)C)O)=O | C26H44O7S
